US09023865B2
In a manner similar to that described in Scheme 6 and Example 30, (S)-1-(7-fluorochroman-4-yl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea was deprotected with TFA to afford 1-[(4S)-7-fluoro-3,4-dihydro-2H-chromen-4-yl]-3-[3-(2-methylpyridin-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea. MS ESI calc'd. for C22H19FN6O2[M+1]+ 419, found 419.

reactant | (S)-1-(7-fluorochroman-4-yl)-3-(3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | FC1=CC=C2[C@H](CCOC2=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C | C41H33FN6O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-[(4S)-7-fluoro-3,4-dihydro-2H-chromen-4-yl]-3-[3-(2-methylpyridin-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea | FC1=CC=C2[C@H](CCOC2=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2)C2=CC(=NC=C2)C | C22H19FN6O2
